US09102614B2
Preparation of ethyl 2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate:
A solution of ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)acetate (5.5 g, crude) in DCM (160 mL) was treated with Dess-Martin periodinane (7.18 g, 16.9 mmol) at 23° C. After 1 h, the reaction was added slowly over 5 min to 10% Na2S2O3 (100 mL). After 30 min, the reaction was extracted with DCM (3×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated. The residue was treated with benzene, filtered, and wet-loaded onto a silica gel column and purified by flash chromatography (ethyl acetate/hexanes) giving the desired product in semipure form (3.9 g). 1H NMR (400 MHz, CDCl3): δ 8.11-8.08 (m, 1H), 7.86-7.83 (m, 1H), 7.76 (s, 1H), 7.66-7.60 (m, 2H), 4.41 (q, J=7.4 Hz, 2H), 2.50 (s, 3H), 1.40 (t, J=7.4 Hz, 3H). 19F NMR (377 MHz, CDCl3) δ−73.3 (s).

reactant | ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)acetate | 5.5 g | OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C16H15F3O6S
reactant | Dess-Martin periodinane | 16.9 mmol, 7.18 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 160 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | CC=1C(=C(C2=CC=CC=C2C1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O | C16H13F3O6S
